US08486967B2
b) 1-(2-(1-(3-Methyl-1,2,4-thiadiazol-5-yl)piperidin-4-ylamino)-[1,2,4]-triazolo[1,5-a]pyridin-8-yl)-4-(trifluoromethyl)cyclohexanol
Prepared in analogy to example 219f), starting from 1-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-4-(trifluoromethyl)cyclohexanol and 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one. As a reducing agent 4 equivalent sodium borohydride in ethanol was used at 70° C. over night. The title compound was obtained after column chromatography on silica gel using ethyl acetate as eluent as a white solid (yield: 46%).

reactant | 1-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-4-(trifluoromethyl)cyclohexanol | NC1=NN2C(C(=CC=C2)C2(CCC(CC2)C(F)(F)F)O)=N1 | C13H15F3N4O
reactant | 1-(3-methyl-1,2,4-thiadiazol-5-yl)piperidin-4-one | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
reactant | sodium borohydride | 4 equivalent | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-(1-(3-Methyl-1,2,4-thiadiazol-5-yl)piperidin-4-ylamino)-[1,2,4]-triazolo[1,5-a]pyridin-8-yl)-4-(trifluoromethyl)cyclohexanol | CC1=NSC(=N1)N1CCC(CC1)NC1=NN2C(C(=CC=C2)C2(CCC(CC2)C(F)(F)F)O)=N1 | C21H26F3N7OS
